US06432993B1
t-Butyl N-methyl-N-[5-(4-methylthiophenoxy)-2-nitrophenyl]carbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 4-methylthiophenol (0.98 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.00 g), sodium hydride (55 wt. %, 0.31 g) and anhydrous N,N-dimethylformamide (60 ml) and the reaction mixture was purified to give the title compound (2.56 g).

reactant | 4-methylthiophenol | 0.98 g | CC1=CC=C(C=C1)S | C7H8S
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.00 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.31 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-methyl-N-[5-(4-methylthiophenoxy)-2-nitrophenyl]carbamate | 2.56 g | CN(C(OC(C)(C)C)=O)C1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C19H22N2O4S
